US04452809
Trans-4-(1-naphthalenyloxy)-3-pyrrolidinol
Eighteen grams of 1-benzyl-4-(1-naphthoxy)-3-pyrrolidinol in 200 ml. of ethanol was treated with ca. 2 g. of 10% palladium-on-charcoal under hydrogen at 60° C. for 20 hr. The mixture was cooled, filtered and ethanol removed. The residue was crystallized from benzene and had a melting point of 112°-115° C.

reactant | 1-benzyl-4-(1-naphthoxy)-3-pyrrolidinol | Eighteen grams | C(C1=CC=CC=C1)N1CC(C(C1)OC1=CC=CC2=CC=CC=C12)O | C21H21NO2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Trans-4-(1-naphthalenyloxy)-3-pyrrolidinol | C1(=CC=CC2=CC=CC=C12)O[C@H]1[C@@H](CNC1)O | C14H15NO2
